US06740777B2
Nitrogen was bubbled through a solution of 2-methoxycarbonylmethyl-6-vinyl-benzoic acid methyl ester (1.31 g, 5.60 mmol), thioacetic acid (4.00 mL, 56.0 mmol), and AIBN (0.184 g, 1.10 mmol) in benzene (30 mL) for 3 h at rt to remove oxygen. The mixture was heated at reflux for 3 h. The solution was allowed to cool to rt and saturated aqueous NaHCO3 (100 mL) was added. The mixture was extracted with EtOAc (100 mL) and the organic layer was washed with H2O (100 mL) and brine (100 mL), then dried over MgSO4 and concentrated in vacuo. Flash chromatography on SiO2 (10% EtOAc/hexanes) provided 2-(2-acetylsulfanyl-ethyl)-6-methoxycarbonylmethyl-benzoic acid methyl ester as a yellow solid (0.555 g, 33%): 1H NMR (CDCl3): δ2.40 (s, 3H), 2.94-2.99 (m, 2H), 3.13-3.18 (m, 2H), 3.75 (s, 3H), 3.78 (s, 2H), 3.99 (s, 3H), 7.25 (d, J=7.6 Hz, 1H), 7.32 (d, J=7.6 Hz, 1H), 7.42 (t, J=7.6 Hz, 1H).

reactant | 2-methoxycarbonylmethyl-6-vinyl-benzoic acid methyl ester | 5.60 mmol, 1.31 g | COC(C1=C(C=CC=C1C=C)CC(=O)OC)=O | C13H14O4
reactant | thioacetic acid | 56.0 mmol, 4.00 mL | C(C)(=S)O | C2H4OS
reactant | AIBN | 1.10 mmol, 0.184 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | 2-(2-acetylsulfanyl-ethyl)-6-methoxycarbonylmethyl-benzoic acid methyl ester | 0.555 g, 33% | COC(C1=C(C=CC=C1CC(=O)OC)CCSC(C)=O)=O | C15H18O5S
